US04169720
44 gm (0.211 mol) of methyl 2-(4-formyl-phenoxy)-propionate were dissolved in 500 ml of methanol, and 8 gm (0.211 mol) of sodium borohydride were added in small portions to the solution. The resulting mixture was stirred at room temperature for 30 minutes and then at 60° C. for 30 minutes. Thereafter, the reaction mixture was evaporated in vacuo to one-half its original volume, poured into water, neutralized with hydrochloric acid, and extracted with ether. The ethereal extract solution was washed, dried and evaporated, leaving 20 gm of methyl 2-(4-hydroxymethyl-phenoxy)-propionate as a colorless oil which was purified on a silicagel column with chloroform as the flow agent.

reactant | methyl 2-(4-formyl-phenoxy)-propionate | 0.211 mol, 44 gm | C(=O)C1=CC=C(OC(C(=O)OC)C)C=C1 | C11H12O4
reactant | sodium borohydride | 0.211 mol, 8 gm | [BH4-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | methyl 2-(4-hydroxymethyl-phenoxy)-propionate | 20 gm | OCC1=CC=C(OC(C(=O)OC)C)C=C1 | C11H14O4
